### PR TITLE
fix(OEIS/111291): state Colton's bound for sufficiently large x

### LINKED ISSUE #5227: Likely misformalization in `OEIS/111291.lean`
An AI agent produced a Lean proof of the negation of `OeisA111291.conjecture` for about
**$0.13** of API spend, which is unrealistically low for a research-open conjecture from the
OEIS set.

AI review of the accepted proof suggests the statement is misformalized, in the following way (AI-written):

> The defect is a missing asymptotic qualifier. Colton's conjecture in the
> [A111291](https://oeis.org/A111291) comment ("the number of refactorables less than x is at
> least x/(2 log(x))") comes from his Journal of Integer Sequences paper, where it is motivated
> by the prime number theorem, i.e. it is a claim about large x. The file quantifies it over
> every real above 1:
>
> ```lean
> theorem conjecture : ∀ (x : ℝ), x > 1 →
>     (countRefactorable x : ℝ) ≥ x / (2 * Real.log x)
> ```
>
> As x → 1⁺ the right-hand side tends to +∞ (the count is bounded while log x → 0), so the
> statement is false throughout (1, 2) for reasons that have nothing to do with refactorable
> numbers. The accepted disproof evaluates at x = 3/2: the count there is 1, while
> (3/2)/(2 log(3/2)) ≈ 1.85, closed with the standard bound log x ≤ x − 1. Colton's asymptotic
> conjecture is untouched.
>
> Suggested fix: state the bound for sufficiently large x
> (`∃ x₀, ∀ x ≥ x₀, ...`), or from an explicit threshold onward.

<details>
<summary>The accepted Lean proof</summary>

```lean
import FormalConjecturesUtil

/-!
# Number of refactorable numbers (A033950) $\le 10^n$

A number $k$ is refactorable if its number of divisors, $\tau(k)$, divides $k$.

*References:*
- [A111291](https://oeis.org/A111291)
-/

namespace OeisA111291

open Nat Finset Real

/-- Helper function: number of refactorable numbers $\le m$. -/
def countRefactorableNat (m : ℕ) : ℕ :=
  (Icc 1 m).filter (fun k => k.divisors.card ∣ k) |>.card

/--
`a n` is the number of refactorable numbers $\le 10^n$.
A number $k$ is refactorable if its number of divisors, $\tau(k)$, divides $k$.
-/
def a (n : ℕ) : ℕ :=
  countRefactorableNat (10 ^ n)

/--
`countRefactorable x` is the number of refactorable numbers $\le x$.
-/
noncomputable def countRefactorable (x : ℝ) : ℕ :=
  if _hx : x ≥ 1 then
    countRefactorableNat (Int.toNat (floor x))
  else
    0

/--
Simon Colton conjectures that the number of refactorables less than x is at least x/(2 log(x)).
-/
theorem conjecture.disproof : ¬ (∀ (x : ℝ), x > 1 →
    (countRefactorable x : ℝ) ≥ x / (2 * Real.log x)) := by
  intro h
  have hcount : countRefactorable (3 / 2 : ℝ) = 1 := by
    norm_num [countRefactorable, countRefactorableNat]
    simp [Finset.filter_singleton, Nat.divisors_one]
  have hlog_pos : 0 < Real.log (3 / 2 : ℝ) :=
    Real.log_pos (by norm_num)
  have hlog_le := Real.log_le_sub_one_of_pos (show (0 : ℝ) < 3 / 2 by norm_num)
  have hbound := h (3 / 2) (by norm_num)
  rw [hcount] at hbound
  have hmul := (div_le_iff₀ (show 0 < 2 * Real.log (3 / 2 : ℝ) by positivity)).mp hbound
  norm_num at hmul
  linarith

end OeisA111291
```

</details>

### PR DESCRIPTION
**Pull request by tadamcz**
State Colton's bound for sufficiently large x (`∃ x₀, ∀ x ≥ x₀`); the ∀ x > 1 version is trivially false near the log singularity.

Fixes #5227

### CODE REVIEW

File: FormalConjectures/OEIS/111291.lean [hunk 1]
```diff
@@ -62,10 +62,11 @@ noncomputable def countRefactorable (x : ℝ) : ℕ :=
     0
 
 /--
-Simon Colton conjectures that the number of refactorables less than x is at least x/(2 log(x)).
+Simon Colton conjectures that the number of refactorable numbers less than $x$ is at least
+$\frac{x}{2\log x}$. This is an asymptotic claim, so we state it for sufficiently large $x$.
 -/
 @[category research open, AMS 11]
-theorem conjecture : ∀ (x : ℝ), x > 1 →
+theorem conjecture : ∃ x₀ : ℝ, ∀ x ≥ x₀,
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/111291.lean]: Small nit: usually (but now always) be use the Filter notation for such problems (so `Filter.Eventually`). Could you use this here?

**Review by Paul-Lez — APPROVED** [review]

File: FormalConjectures/OEIS/111291.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/OEIS/111291.lean]: There's a nice notation that Mathlib would allow you to use here!

Comment (mo271) [inline FormalConjectures/OEIS/111291.lean]:
```suggestion
theorem conjecture : ∀ᶠ x in Filter.atTop,
```

Comment (tadamcz) [reply FormalConjectures/OEIS/111291.lean]: Just for my own edification: why this vs Filter.Eventually?

**Review by mo271 — APPROVED** [review]
